US07935815B2
Synthesis of 4-chloro-2-phenylbutyric acid
A 2.64 M solution of butyl lithium in hexane (28 mL) was added to a solution of phenylacetic acid (5.07 g) in THF (150 mL) in a nitrogen atmosphere at −78° C., and the reaction solution was stirred at −78° C. for 20 minutes. The reaction solution was further stirred at 0° C. for one hour. Then, 1-bromo-2-chloroethane (3.1 mL) was added at 0° C., and the reaction solution was stirred at room temperature for 14 hours. Ethyl acetate and 1 N hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with a saturated sodium chloride solution. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 5.54 g of the title compound. The property values of the compound are as follows.

reactant | butyl lithium | C(CCC)[Li]
reactant | phenylacetic acid | 5.07 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 1-bromo-2-chloroethane | 3.1 mL | BrCCCl | C2H4BrCl
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | hexane | 28 mL | CCCCCC | C6H14
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-phenylbutyric acid | 5.54 g | ClCCC(C(=O)O)C1=CC=CC=C1 | C10H11ClO2
